US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-pyrrolidin-1-yl-phthalazine (Compound 49)
A solution of 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (1 g, 2.82 mmoles), prepared as described in example 45, in DMF (25 ml) was stirred under dry N2 at room temperature, and dropwise added with pyrrolidine. The mixture was heated at 100° C. for 20 hours, then concentrated and partitioned between water and CH2Cl2. The organic phase was washed with water, anhydrified and concentrated to give a solid which was crystallised from ethyl acetate (25 ml) to give 0.77 g of the title compound (yield: 71%). m.p.: 170-172° C.

reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 2.82 mmoles, 1 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10Cl3N3O
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-pyrrolidin-1-yl-phthalazine | 0.77 g, yield: 71% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)N1CCCC1)Cl | C19H18Cl2N4O
